US05650428
The procedure described in Example 65 was repeated, except that (S)-2-(4-chlorobenzenesulfonylamino)-N-(3-ethoxycarbonylphenyl)-3-hydroxypropanamide (1.38 g) was reacted with mesyl chloride to obtain (S)-2-(4-chlorobenzenesulfonylamino)-N-(3-ethoxycarbonylphenyl)-3-methanesulfonyloxypropanamide (915 mg).

reactant | (S)-2-(4-chlorobenzenesulfonylamino)-N-(3-ethoxycarbonylphenyl)-3-hydroxypropanamide | 1.38 g | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)NC1=CC(=CC=C1)C(=O)OCC)CO | C18H19ClN2O6S
reactant | mesyl chloride | S(=O)(=O)(C)Cl | CH3ClO2S
product | (S)-2-(4-chlorobenzenesulfonylamino)-N-(3-ethoxycarbonylphenyl)-3-methanesulfonyloxypropanamide | 915 mg | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)NC1=CC(=CC=C1)C(=O)OCC)COS(=O)(=O)C | C19H21ClN2O8S2
